US08334315B2
1. Synthesis of 3-tert-butyl-1-methyl-1H-pyrazol-5-yl-methanamine (Steps j01-j06)
3-tert.-butyl-1H-pyrazol-5-carbonitrile (J-IV) (10 mmol) was added to a suspension of NaH (60%) (12.5 mmol) in DMF (20 ml) at room temperature while stirring. After stirring for 15 minutes, methyl iodide (37.5 mmol) was added dropwise to this reaction mixture at room temperature. After stirring for 30 min at 100° C., the reaction mixture was mixed with water (150 ml) and extracted with dichloromethane (3×75 ml). The combined organic extracts were washed with water (100 ml) and sat. NaCl solution (100 ml) and dried over magnesium sulphate. After removal of the solvent under vacuum, the residue was purified by column chromatography (SiO2, various mixtures of EE and cyclohexane as the mobile solvent) and the product J-V was obtained.

reactant | 3-tert.-butyl-1H-pyrazol-5-carbonitrile | 10 mmol | C(C)(C)(C)C1=NNC(=C1)C#N | C8H11N3
reactant | NaH | 12.5 mmol | [H-].[Na+]
reactant | methyl iodide | 37.5 mmol | CI | CH3I
reactant | water | 150 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-tert-butyl-1-methyl-1H-pyrazol-5-yl-methanamine | C(C)(C)(C)C1=NN(C(=C1)CN)C | C9H17N3
